2165-10-21 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient made CMO, extubated, family at bedside
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-21**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 68 (62 - 76) bpm
   BP: 125/43(60) {115/38(56) - 189/80(106)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,060 mL
                                                                     26 mL
   PO:
             TF:
   IVF:
                                                                     60 mL
                                                                     26 mL
   Blood products:
   Total out:
                                                                    985 mL
                                                                    630 mL
   Urine:
                                                                    985 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,075 mL
                                                                   -604 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 88%
   ABG: ////
   Ve: 13.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   69M with h/o HTN, CAD s/p CABG, AVR with mechanical St. [**Male First Name (un) **] s/p strep
   endocarditis on coumadin, DM, PVD s/p osteo and amputation of digits of
   R foot, who had mechanical fall at home presented comatose and found to
   have large hypertensive thalamic hemorrhage.
   .
   #. Intracranial thalamic bleed: Likely secondary to HTN (77% of
   thalamic hemorrhages are [**3-2**] HTN) and also in context of
   supratherapeutic INR. Given current neurologic status, age, volume and
   location of bleed, is poor prognosis for any meaningful neurologic
   recovery. Presentation with coma and stupor are also found in studies
   to give the poorest chance of survival. Patient has expressed the wish
   to be DNR/DNI in past. Family is gathering at patient's bedside to
   discuss goals of care and per neurosurgeons, is moving towards comfort
   measures only.
   - neurosurgery following, appreciate recs
   - continue propofol as needed to keep patient comfortable
   - f/u final read of CT head and c-spine. Can remove c-spine collar if
   cleared
   - family discussion when timing appropriate
   .
   #. FEN - NPO
   .
   #. Access - PIV x 2
   .
   #. Code - CMO
   .
   #. Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2165-10-20**] 03:17 PM
   18 Gauge - [**2165-10-20**] 03:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-10-22 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -On morphine gtt, no new events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions: Morphine gtt 4mg/hr
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-22**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 101 (85 - 104) bpm
   BP: 94/47(57) {91/45(55) - 137/56(74)} mmHg
   RR: 33 (7 - 36) insp/min
   SpO2: 73%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                     84 mL
                  PO:
                  TF:
   IVF:
                                                                     84 mL
   Blood products:
   Total out:
                                                                    761 mL
                                                                      0 mL
   Urine:
                                                                    761 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -677 mL
                                                                      0 mL
   Respiratory support
   SpO2: 73%
   ABG: ////
   Physical Examination
   GEN: Agonal respirations
   HEENT: Pupils 3mm non-reactive
   Lungs: Coarse BS bilaterally
   Heart: S1S2 RRR
   ABD: Soft, nontender
   Neurologic: Unresponsive
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   69M with h/o HTN, CAD s/p CABG, AVR with mechanical St. [**Male First Name (un) **] s/p strep
   endocarditis on coumadin, DM, PVD s/p osteo and amputation of digits of
   R foot, who had mechanical fall at home presented comatose and found to
   have large hypertensive thalamic hemorrhage.
   .
   #. Intracranial thalamic bleed: Likely secondary to HTN and also in
   context of supratherapeutic INR. Given current neurologic status, age,
   volume and location of bleed, is poor prognosis for any meaningful
   neurologic recovery. Presentation with coma and stupor are also found
   in studies to give the poorest chance of survival. Patient has
   expressed the wish to be DNR/DNI in past. Family discussed goals of
   care in conjunction with Nsurg.
   - neurosurgery following, appreciate recs, no intervention
   - Pt made CMO by family, extubated, c-collar removed
   - Morphine gtt: pt appears comfortable
   .
   #. FEN - NPO
   .
   #. Access - PIV x 2
   .
   #. Code - CMO
   .
   #. Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2165-10-20**] 03:17 PM
   18 Gauge - [**2165-10-20**] 03:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: CMO
   Disposition:  Call out to the floor today